US09023858B2
D) 7-(2,4-dimethoxybenzyl)-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,5,6,7-tetrahydropyrido[3,4-d]pyrimidine-4,8-dione
To a solution of 7-(2,4-dimethoxybenzyl)-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-1,2,3,5,6,7-hexahydropyrido[3,4-d]pyrimidine-4,8-dione (68 mg) in N,N-dimethylformamide (2 ml) were added 1M aqueous sodium hydroxide solution (140 μl) and iodoethane (11 μl), and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into 0.5M hydrochloric acid (4 ml), and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the colorless title compound (72 mg).

reactant | 7-(2,4-dimethoxybenzyl)-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-1,2,3,5,6,7-hexahydropyrido[3,4-d]pyrimidine-4,8-dione | 68 mg | COC1=C(CN2C(C=3NC(N(C(C3CC2)=O)C2=CC=C(C=C2)OCC(F)(F)F)=S)=O)C=CC(=C1)OC | C24H22F3N3O5S
reactant | sodium hydroxide | 1M, 140 μl | [OH-].[Na+]
reactant | iodoethane | 11 μl | ICC | C2H5I
reactant | hydrochloric acid | 0.5M, 4 ml | Cl | ClH
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 7-(2,4-dimethoxybenzyl)-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,5,6,7-tetrahydropyrido[3,4-d]pyrimidine-4,8-dione | 72 mg | COC1=C(CN2C(C=3N=C(N(C(C3CC2)=O)C2=CC=C(C=C2)OCC(F)(F)F)SCC)=O)C=CC(=C1)OC | C26H26F3N3O5S
